US05925596
N-tert-Butyl-5-bromomethyl-2-methanesulfonylbenzenesulfonamide
A solution of 46 g (0.152 mol) of N-tert-butyl-2-methanesulfonyl-5-methyl-benzenesulfonamide in 450 ml of CCl4 is, after the addition of 27.0 g (0.152 mol) of NBS (N-bromosuccinimide) and 1 g of AIBN (azobisisobutyronitrile), heated under reflux for 7 h using a daylight lamp. The reaction mixture is then filtered and washed successively with NaHSO3 solution, NaHCO3 solution and water, dried over MgSO4 and completely concentrated in vacuo. 51.2 g of a crude mixture containing 55% by weight of N-tert-butyl-5-bromomethyl-2-methanesulfonylbenzenesulfonamide are obtained.

reactant | N-tert-butyl-2-methanesulfonyl-5-methyl-benzenesulfonamide | 0.152 mol, 46 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC(=C1)C)S(=O)(=O)C | C12H19NO4S2
reactant | NBS | 0.152 mol, 27.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 1 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | CCl4 | 450 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-tert-Butyl-5-bromomethyl-2-methanesulfonylbenzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC(=C1)CBr)S(=O)(=O)C | C12H18BrNO4S2
